US09120805B2
3-(4-Piperidin-4-yl-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one (50.0 mg; 0.17 mmol) is dissolved in acetonitrile (1.5 mL), 35% aqueous formaldehyde solution (67.0 μl; 0.84 mmol) is added and the reaction mixture is stirred for 5 min. Sodium cyanoborohydride (21.2 mg; 0.34 mmol) is added in small portions and the reaction stirred for 2 h. The reaction mixture is diluted with water, treated with saturated NaHCO3 solution and extracted with ethylacetate (three times). The combined organic layers are washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The crude product is purified by preparative HPLC. The combined fractions are concentrated in vacuo, the aqueous residue is made basic with saturated NaHCO3 solution, treated with NaCl (solid) and extracted with ethylacetate (four times). The combined organic layers are washed with brine, dried over Na2SO4, filtered off by suction and evaporated to dryness to afford 3-[4-(1-methyl-piperidin-4-yl)-phenyl]-2H-pyrrolo[1,2-a]pyrazin-1-one as beige solid; HPLC/MS 1.28 min (A), [M+H] 308;

reactant | 3-(4-Piperidin-4-yl-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one | 0.17 mmol, 50.0 mg | N1CCC(CC1)C1=CC=C(C=C1)C=1NC(C=2N(C1)C=CC2)=O | C18H19N3O
reactant | formaldehyde | 0.84 mmol, 67.0 μl | C=O | CH2O
reactant | Sodium cyanoborohydride | 0.34 mmol, 21.2 mg | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-[4-(1-methyl-piperidin-4-yl)-phenyl]-2H-pyrrolo[1,2-a]pyrazin-1-one | CN1CCC(CC1)C1=CC=C(C=C1)C=1NC(C=2N(C1)C=CC2)=O | C19H21N3O
